US04014920
22.2 g (0.09 mol) of 3-allyl-4-acetoxy-cinnamic acid are suspended in 100 ml of benzene and 13.2 ml (0.18 mol) of thionyl chloride are added. The reaction mixture is heated to the boil for half an hour under a reflux condenser and thereafter the solvent and excess thionyl chloride are removed by distillation under reduced pressure. The residual crude 3-allyl-4-acetoxy-cinnamic acid chloride is dissolved in 100 ml of absolute 1,2-dimethoxyethane, 17.5 g (0.27 mol) of sodium azide are added and the mixture is subsequently stirred for 48 hours at room temperature. The inorganic salts are then filtered off and the filtrate is concentrated under reduced pressure at 30°C. Hereupon, colourless crystals separate out. The crystallisation is completed by adding ether. 3-Allyl-4-acetoxy-cinnamic acid azide of melting point 87°-89°C (decomposition) is obtained.

reactant | 3-allyl-4-acetoxy-cinnamic acid | 0.09 mol, 22.2 g | C(C=C)C=1C=C(C=CC(=O)O)C=CC1OC(C)=O | C14H14O4
reactant | thionyl chloride | 0.18 mol, 13.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 0.27 mol, 17.5 g | [N-]=[N+]=[N-].[Na+]
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-Allyl-4-acetoxy-cinnamic acid azide | C(C=C)C=1C=C(C=CC(=O)N=[N+]=[N-])C=CC1OC(C)=O | C14H13N3O3
